US08193378B2
To a solution of (7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methanol (200 mg) in MeCN (5 mL) was added triphenylphosphine dibromide (240 mg). The reaction liquid was stirred at room temperature for 2 hours and concentrated under reduced pressure. To the residue were added EtOAc and IPE, the resulting solid was removed by filtration, and the filtrate was concentrated to obtain 7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-3-(bromomethyl)-5-fluoro-2H-chromene (230 mg) as a brown liquid. 60% sodium hydride (24 mg) was added to a DMF solution (5 mL) at 0° C., and subsequently, ethyl 1H-pyrazole-4-carboxylate (76 mg) was added thereto. The mixture was stirred at room temperature for 0.5 hours, and a solution of 7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-3-(bromomethyl)-5-fluoro-2H-chromene (220 mg) in DMF (5 mL) was added thereto at 0° C. The reaction liquid was stirred at room temperature for 13 hours, quenched with a saturated NH4Cl solution, and then extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:EtOAc=100:0 to 70:30) to obtain ethyl 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylate (111 mg) as a pale yellow solid.

reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | ethyl 1H-pyrazole-4-carboxylate | 76 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | 7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-3-(bromomethyl)-5-fluoro-2H-chromene | 220 mg | FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CBr)F)C=CC(=C1)C(F)(F)F)(F)F | C19H12BrF7O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl 1-[(7-{[2,4-bis(trifluoromethyl)benzyl]oxy}-5-fluoro-2H-chromen-3-yl)methyl]-1H-pyrazole-4-carboxylate | 111 mg | FC(C1=C(COC2=CC(=C3C=C(COC3=C2)CN2N=CC(=C2)C(=O)OCC)F)C=CC(=C1)C(F)(F)F)(F)F | C25H19F7N2O4
